US05985909
2-(Methoxycarbonyl)indole-6-carboxylic acid was coupled with 4-(2-aminoethyl)-morpholine by the method described above to give 2-(methoxycarbonyl)-N-[2-(4-morpholinyl)ethyl]indole-6-carboxamide as a white powder (78%), mp 226-227.5° C. (MeOH). 1H NMR [(CD3)2SO] δ12.24 (s, 1H, indole NH), 8.42 (t, J=5.6 Hz, 1H, amide NH), 7.97 (s, 1H, H-3 or H-7), 7.71 (d, J=8.4 Hz, 1H, H-4), 7.56 (dd, J=8.4, 1.5 Hz, 1H, H-5), 7.20 (s, 1H, H-3 or H-7), 3.90 (s, 3H, CO2Me), 3.58 (t, J=4.6 Hz, 4H, CH2O), 3.41 (q, J=6.5 Hz, 2H, CONHCH2), 2.48 (t, J=7.0 Hz, 2H, CONHCH2CH2), 2.42 (t, J=4.1 Hz, 4H, NCH2CH2O); 13C NMR δ166.6 (CONH), 161.5 (CO2Me), 136.7, 131.0, 129.1, 128.5 (C-2,6,8,9), 121.6, 118.9, 112.3, 107.5 (C-3,4,5,7), 66.2 (CH2O), 57.3, 53.2 (CH2N), 51.9 (OCH3), 36.6 (NHCH2). Anal. (C17H21N3O4) C,H,N.

reactant | 2-(Methoxycarbonyl)indole-6-carboxylic acid | COC(=O)C=1NC2=CC(=CC=C2C1)C(=O)O | C11H9NO4
reactant | 4-(2-aminoethyl)-morpholine | NCCN1CCOCC1 | C6H14N2O
solvent | MeOH | CO | CH4O
product | 2-(methoxycarbonyl)-N-[2-(4-morpholinyl)ethyl]indole-6-carboxamide | 78% | COC(=O)C=1NC2=CC(=CC=C2C1)C(=O)NCCN1CCOCC1 | C17H21N3O4
